US07678803B2
2,4-difluorobenzaldehyde (4.26 g, 30 mmol), guanidine carbonate (5.40 g, 30 mmol), N,N-diisopropylethylamine (3.87 g, 30 mmol), and N,N-dimethylacetamide (25 mL) are heated at 160 degrees Celsius overnight. The crude product is taken up in ethyl acetate/water. The organic layer is dried over magnesium sulfate, then concentrated and subjected to chromatography, affording the desired 7-fluoroquinazolin-2-amine (0.95 g, 19%). LC/MS m/z=164 [M+H]+.

reactant | 2,4-difluorobenzaldehyde | 30 mmol, 4.26 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | guanidine carbonate | 30 mmol, 5.40 g | C(O)(O)=O.NC(=N)N
reactant | N,N-diisopropylethylamine | 30 mmol, 3.87 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylacetamide | 25 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 7-fluoroquinazolin-2-amine | 0.95 g, 19% | FC1=CC=C2C=NC(=NC2=C1)N | C8H6FN3
